US04707494
A mixture of 5-bromo-2-methyl-2-pentene (489.2 mg, 3 mmole) and triphenylphosphine (787 mg, 3 mmole) in 6 ml of acetonitrile was stirred at 95° C. (oil bath temperature) under nitrogen for 20 hours. The solvent was evaporated by a stream of nitrogen. The residue was dried in vacuo at room temperature to give a foam. This was rinsed with ethyl ether to give a white solid which was filtered, washed with ethyl ether and dried in vacuo at 100° C. for 4 hours to afford 905 mg of (4-methyl-3-pentenyl)triphenylphosphonium bromide.

reactant | 5-bromo-2-methyl-2-pentene | 3 mmole, 489.2 mg | BrCCC=C(C)C | C6H11Br
reactant | triphenylphosphine | 3 mmole, 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | (4-methyl-3-pentenyl)triphenylphosphonium bromide | 905 mg | [Br-].CC(=CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H26P.BrH/c1-21(2)13-12-20-25(22-14-6-3-7-15-22,23-16-8-4-9-17-23)24-18-10-5-11-19-24;/h3-11,13-19H,12,20H2,1-2H3;1H/q+1;/p-1
